US05453433
A mixture of 5-(3-hydroxypropyl)-3-methyl-1,2,4-thiadiazole (242 mg, 1.53 mmol), 4-(5-difluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol described in allowed U.S. patent application Ser. No. 07/869,287, incorporated herein by reference (400 mg, 1.67 mmol), and DEAD (290 mg, 1.67 mmol) was dissolved in 16 mL of THF. To the above solution was added triphenylphosphine (438 mg, 1.67 mmol) at 0° C. and the mixture was allowed to warm to 20° C. overnight. The solvent was removed in vacuo, an aqueous sodium bicarbonate solution was added, and the mixture was extracted with methylene chloride (7×). The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica column chromatography (10 cm column, ethyl acetate/hexane, from 1/6 to 1/4) followed by recrystallization from ethyl acetate/hexane to afford 471 mg (81%) of 3-methyl-5-[3-[4-(5-difluoromethyl-1,2,4-oxadiazol-3 -yl)-2,6-dimethylphenoxy]propyl]-1,2,4thiadiazole, as a white crystalline solid, m.p. 62°-64° C.

reactant | 5-(3-hydroxypropyl)-3-methyl-1,2,4-thiadiazole | 1.53 mmol, 242 mg | OCCCC1=NC(=NS1)C | C6H10N2OS
reactant | 4-(5-difluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol | FC(C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C)F | C11H10F2N2O2
reactant | DEAD | 1.67 mmol, 290 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.67 mmol, 438 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 3-methyl-5-[3-[4-(5-difluoromethyl-1,2,4-oxadiazol-3 -yl)-2,6-dimethylphenoxy]propyl]-1,2,4thiadiazole | 471 mg, 81% | CC1=NSC(=N1)CCCOC1=C(C=C(C=C1C)C1=NOC(=N1)C(F)F)C | C17H18F2N4O2S
